US08669234B2
1-[1H-Imidazol-2-yl]-cyclobutyl}-carbamic acid tert-butyl ester boronic acid (60 mg, 0.17 mmol) and 2-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (65 mg, 17 mmol) in 3:1 DME/H2O (1.5 mL) were treated with Pd(PPh3)4 (10 mg, 0.0084 mmol) and K2CO3 (2 M solution, 0.25 mL, 0.50 mmol). The mixture was stirred in a sealed tube at 80° C. for 18 hours. The mixture was filtered through a fitted glass funnel and concentrated. The mixture was subjected to a reverse phase HPLC column (5-95% MeCN—H2O; 0.1% TFA modifier) to afford 2-(5-{4′-[2-(1-tert-butoxycarbonylamino-cyclobutyl)-3H-imidazol-4-yl]-biphenyl-4-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (10 mg, 9%): MS (ESI) m/z 625 [M+H]+.

reactant | carbamic acid tert-butyl ester boronic acid | 0.17 mmol, 60 mg | B(O)O.C(C)(C)(C)OC(N)=O
reactant | 2-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 17 mmol, 65 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)Br | C18H22BrN3O2
reactant | K2CO3 | 0.50 mmol, 2 M, 0.25 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.0084 mmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME H2O | 1.5 mL | COCCOC.O
product | 2-(5-{4′-[2-(1-tert-butoxycarbonylamino-cyclobutyl)-3H-imidazol-4-yl]-biphenyl-4-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 10 mg, 9% | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1(CCC1)NC(=O)OC(C)(C)C | C36H44N6O4
